US07504411B2
To a solution of 4-(2-methoxyphenylamino)-piperidine-1-carboxylic acid tert-butyl ester (2.7 g, 8.8 mmol) in methanol (30 mL) was added 4N hydrochloric acid in ethyl acetate (20 mL) at room temperature. After stirring for 1 h, the resulting suspension was concentrated in vacuo. The residue was partitioned between chloroform and 1N sodium hydroxide. The aqueous layer was extracted with chloroform. The combined organic layer was washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel chromatography eluting 10-20% methanol in chloroform to furnish 4-(2-methoxyphenylamino)-piperidine (1.8 g, 8.7 mmol, 99%) as white crystals.

reactant | 4-(2-methoxyphenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 8.8 mmol, 2.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1)OC | C17H26N2O3
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2-methoxyphenylamino)-piperidine | 8.7 mmol, 1.8 g, 99% | COC1=C(C=CC=C1)NC1CCNCC1 | C12H18N2O
